US06313126B1
3-{(1,4-cis)-4-[4-(1H-indol-4-yl)-piperazin-1-yl]-cyclohexyl}-1-propyl-1H-indole-5-carbonitrile
A solution of 4-(5-cyano-1-n-propyl-indol-3-yl)-cyclohexanone (1.68 g, 6 mmol), 1-(indol-4-yl)piperazine (1.27 g, 6.3 mmol), sodium triacetoxyborohydride (1.84 g, 8.9 mmol) and acetic acid (0.94 ml, 16 mmol) in 1,2-dichloroethane (80 ml) was allowed to stir at room temperature overnight. The reaction was quenched with 1N sodium hydroxide (20 ml), extracted with methylene chloride (3×100 ml) and washed with brine (3×100 ml). The organic layer was dried over anhydrous sodium sulfate and filtered. Chromatography (10% methanol-ethyl acetate) afforded 0.42 g(15%) of product as a white powder.

reactant | 4-(5-cyano-1-n-propyl-indol-3-yl)-cyclohexanone | 6 mmol, 1.68 g | C(#N)C=1C=C2C(=CN(C2=CC1)CCC)C1CCC(CC1)=O | C18H20N2O
reactant | 1-(indol-4-yl)piperazine | 6.3 mmol, 1.27 g | N1C=CC2=C(C=CC=C12)N1CCNCC1 | C12H15N3
reactant | sodium triacetoxyborohydride | 8.9 mmol, 1.84 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 16 mmol, 0.94 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
product | 3-{(1,4-cis)-4-[4-(1H-indol-4-yl)-piperazin-1-yl]-cyclohexyl}-1-propyl-1H-indole-5-carbonitrile | 0.42 g, 15% | CCCN1C=C(C2=C1C=CC(=C2)C#N)C3CCC(CC3)N4CCN(CC4)C5=CC=CC6=C5C=CN6 | C30H35N5
